US04740515
A mixture of 20 g (0.062 mol) of 2-bromomethyl-1-(2,4-dichlorophenyl)-3,3-dimethylbut-1-ene and 8.6 g (0.125 mol) of triazole in 80 ml of absolute acetonitrile is stirred at 40° C. for 16 hours. For working up, the reaction mixture is filtered, the filtrate is concentrated in vacuo and the residue is taken up in methylene chloride. The mixture is washed twice with water, dried over sodium sulphate and concentrated in vacuo. The syrup which remains is purified by chromatography (silica gel) and crystallized from petroleum ether. 4.6 g (24% of theory) of 1-(2,4-dichlorophenyl)-3,3-dimethyl-2-(1,2,4-triazol-1-ylmethyl)-but-1-ene of melting point 78° C. are obtained.

reactant | 2-bromomethyl-1-(2,4-dichlorophenyl)-3,3-dimethylbut-1-ene | 0.062 mol, 20 g | BrCC(=CC1=C(C=C(C=C1)Cl)Cl)C(C)(C)C | C13H15BrCl2
reactant | triazole | 0.125 mol, 8.6 g | N1N=NC=C1 | C2H3N3
reactant | acetonitrile | 80 ml | C(C)#N | C2H3N
product | 1-(2,4-dichlorophenyl)-3,3-dimethyl-2-(1,2,4-triazol-1-ylmethyl)-but-1-ene | 4.6 g, 24% | ClC1=C(C=CC(=C1)Cl)C=C(C(C)(C)C)CN1N=CN=C1 | C15H17Cl2N3
